US06369057B1
A) (S)-N-(4-chloro-2-nitrophenyl)-phenylalanine
L-Phenylalanine (8.3 g, 0.05 mol) and 4.8 g (0.025 mol) of 2,5-dichloronitrobenzene were dissolved in 40 ml of anhydrous dimethyl sulfoxide (DMSO), and the stirred solution was heated to 80° C. under an argon atmosphere. Potassium tert.-butylate (4.2 g, 0.025 mol), dissolved in 30 ml of DMSO, was added dropwise in the course of 40 minutes. Stirring was continued for 3 hours at 80 to 90° C., the mixture was allowed to cool, and unreacted phenylalanine was removed by filtration with suction and washed with water. The collected alkaline filtrates were extracted twice using diethyl ether to remove unreacted dichloronitrobenzene. The mixture was then acidified using glacial acetic acid and extracted several times using ethyl acetate, and the extracts were dried over magnesium sulfate and evaporated.

reactant | L-Phenylalanine | 0.05 mol, 8.3 g | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | 2,5-dichloronitrobenzene | 0.025 mol, 4.8 g | ClC1=C(C=C(C=C1)Cl)[N+](=O)[O-] | C6H3Cl2NO2
solvent | dimethyl sulfoxide | 40 ml | CS(=O)C | C2H6OS
solvent | DMSO | 30 ml | CS(=O)C | C2H6OS
product | (S)-N-(4-chloro-2-nitrophenyl)-phenylalanine | ClC1=CC(=C(C=C1)N[C@@H](CC1=CC=CC=C1)C(=O)O)[N+](=O)[O-] | C15H13ClN2O4
